US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (58 mg, 0.3 mmol) and 3′-bromo-4,5′-difluorobiphenyl-2-carbonitrile (106 mg, 0.36 mmol) were coupled following the procedure in Example 6 to afford 4,3′-difluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]-biphenyl-2-carbonitrile (25 mg, 20%) as a white solid: δH (500 Ndz, CDCl3) 1.74 (6H, s), 2.07 (1H, s), 7.22-7.26 (2H, m), 7.35 (1H, d, J 9), 7.39-7.45 (1H, m), 7.51-7.57 (3H, m), 7.76 (1H, s), 8.35 (1H, d, J 7); m/z (ES+) 408 (100%, [MH]+).

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 0.3 mmol, 58 mg | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 3′-bromo-4,5′-difluorobiphenyl-2-carbonitrile | 0.36 mmol, 106 mg | BrC=1C=C(C=C(C1)F)C=1C(=CC(=CC1)F)C#N | C13H6BrF2N
product | 4,3′-difluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]-biphenyl-2-carbonitrile | 25 mg, 20% | FC=1C=C(C(=CC1)C1=CC(=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F)C#N | C23H16F3N3O
